US04291175
(5,6-Dihydroxyhexyl)triphenylphosphonium bromide
A stirred solution of 125 g. of 4-(4-bromobutyl)-2,2-dimethyl-1,3-dioxolane, 154 g. of triphenylphosphine, 800 ml. of acetonitrile, and 270 ml. of acetone is heated at reflux for 69 hours. The solvents are removed under vacuum, and the residue is treated with 250 ml. of chloroform and 15 ml. of water. The resulting mixture is stirred vigorously for 30 minutes. The solvents are removed with the aid of benzene chaser, and the solid product is washed with ether and dried under vacuum to give white crystals, m.p. 152°-170° C.

reactant | 4-(4-bromobutyl)-2,2-dimethyl-1,3-dioxolane | BrCCCCC1OC(OC1)(C)C | C9H17BrO2
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | acetonitrile | C(C)#N | C2H3N
solvent | acetone | CC(=O)C | C3H6O
product | (5,6-Dihydroxyhexyl)triphenylphosphonium bromide | [Br-].OC(CCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CO | InChI=1S/C24H28O2P.BrH/c25-20-21(26)12-10-11-19-27(22-13-4-1-5-14-22,23-15-6-2-7-16-23)24-17-8-3-9-18-24;/h1-9,13-18,21,25-26H,10-12,19-20H2;1H/q+1;/p-1
